US04948794
A solution of 0.4 g (1.9 mmol) 6-chloro-1-hydroxyquinoxaline-2,3(1H,4H)-dione in 15 ml 0.5N sodium hydroxide was added with stirring 1 ml acetic anhydride. Stirring was continued at 25° C. for 1 h to give a precipitate. Recrystallization (dimethylformamide-water) gave 0.2 g (42%) 1-acetoxy-6 -chloroquinoxaline-2,3(1H,4H)-dione. M.p. 219° C. 1H-NMR (DMSO-d6): 12.5 (1H, broad s), 7.2 (3H, m), 2.50 (3H, s). MS (m/e). 254 (M+, 30%).

reactant | 6-chloro-1-hydroxyquinoxaline-2,3(1H,4H)-dione | 1.9 mmol, 0.4 g | ClC=1C=C2NC(C(N(C2=CC1)O)=O)=O | C8H5ClN2O3
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium hydroxide | 0.5N, 15 ml | [OH-].[Na+]
product | 1-acetoxy-6 -chloroquinoxaline-2,3(1H,4H)-dione | 0.2 g, 42% | C(C)(=O)ON1C(C(NC2=CC(=CC=C12)Cl)=O)=O | C10H7ClN2O4
